US05026856
400 mg of 10% palladium on carbon was added to 2.17 g of 2-benzyl-5-ethylaminoisoindoline prepared above in 30 ml of methanol and catalytic hydrogenation was carried out at 45° C. for 7 days. After removing the catalyst by filtration, the filtrate was concentrated and purified by vacuume distillation (bath temperature: 160°-200° C., pressure: 0.1 mmHg) to obtain 950 mg of 5-ethylaminoisoindoline.

reactant | 2-benzyl-5-ethylaminoisoindoline | 2.17 g | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)NCC | C17H20N2
catalyst | palladium on carbon | 400 mg | [Pd] | Pd
solvent | methanol | 30 ml | CO | CH4O
product | 5-ethylaminoisoindoline | 950 mg | C(C)NC=1C=C2CNCC2=CC1 | C10H14N2
